US07259165B2
Preparation of 5-(4-methylpiperazin-1-yl)-3-(phenylsulfonyl)-1H-pyrazolo-[4,3-b]pyridine hydrochloride
A stirred solution of 2-[(phenylsulfonyl)methyl]-6-(4-methylpiperazin-1-yl)-pyridin-3-ylamine (1.20 g, 3.50 mmol) in 1.0 M aqueous hydrochloric acid (20 mL) is cooled in an ice bath, treated dropwise with NaNO2 (358 mg, 5.2 mmol) in water, stirred for 1 h, treated with aqueous saturated NaHCO3 and filtered. The brown solid filtercake is washed with water, dried in vacuo, triturated with acetone and filtered. The filtercake is washed with ether and air-dried to afford the free amine of the title compound as a tan solid, 0.50 g. This solid is dissolved in a mixture of ethanol and 4.0 M HCl in dioxane and concentrated in vacuo. The resultant residue is triturated with ether to afford the title compound as an off-white solid, mp>250° C., identified by mass spectral and NMR analyses.

reactant | 2-[(phenylsulfonyl)methyl]-6-(4-methylpiperazin-1-yl)-pyridin-3-ylamine | 3.50 mmol, 1.20 g | C1(=CC=CC=C1)S(=O)(=O)CC1=NC(=CC=C1N)N1CCN(CC1)C | C17H22N4O2S
reactant | NaNO2 | 5.2 mmol, 358 mg | N(=O)[O-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | hydrochloric acid | 1.0 M, 20 mL | Cl | ClH
solvent | water | O | H2O
product | 5-(4-methylpiperazin-1-yl)-3-(phenylsulfonyl)-1H-pyrazolo-[4,3-b]pyridine hydrochloride | Cl.CN1CCN(CC1)C1=CC=C2C(=N1)C(=NN2)S(=O)(=O)C2=CC=CC=C2 | InChI=1S/C17H19N5O2S.ClH/c1-21-9-11-22(12-10-21)15-8-7-14-16(18-15)17(20-19-14)25(23,24)13-5-3-2-4-6-13;/h2-8H,9-12H2,1H3,(H,19,20);1H
